US05411969
4-Methyl-1-[[[4-Nitrophenyl]methyl]sulfonyl] benzene, (Scheme III)
4-Nitrobenzyl chloride (5.0 g, 29.1 mmole) and sodium p-toluenesulfinate (6.8 g, 37.9 mmole) were dissolved in 50 mL of dry DMF. The mixture was stirred at about 23° for about 18 hours then diluted with water. The sulfone crystallized from the aqueous mixture and was filtered. The sulfone was purified by recrystallization from ethanol to give a pale yellow crystalline solid, mp 188°-190° (7.6 g, 25.9 mmole, 89%): IR (KBr) 2994, 1598, 1514, 1490, 1342, 1312, 1304, 1148, 824 cm-1 ; 1H NMR (CDCl3) δ 2.44 (s, 3H), 4.38 (s, 2H), 7.27 (m, 4H), 7.53 (d, J=8.3 Hz, 2H), 8.13 (d, J=8.3 Hz, 2H); MS m/e 292 (MH+).

reactant | 4-Nitrobenzyl chloride | 29.1 mmole, 5.0 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | sodium p-toluenesulfinate | 37.9 mmole, 6.8 g | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | KBr | [K+].[Br-]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-Methyl-1-[[[4-Nitrophenyl]methyl]sulfonyl] benzene | CC1=CC=C(C=C1)S(=O)(=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H13NO4S
